US04785003
N-(N'-acetylsarcosyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic ethyl ester
This compound can be prepared by condensing 1,2,3,4-tetrahydroisoquinoline-3-carboxylic ethyl ester with N-acetylsarcosine according to the above-described methods; the corresponding acid can be prepared via catalytic hydrogenation of the product ester using Lindlar's catalyst or via base hydrolysis.

reactant | 1,2,3,4-tetrahydroisoquinoline-3-carboxylic ethyl ester | C(C)OC(=O)C1NCC2=CC=CC=C2C1 | C12H15NO2
reactant | N-acetylsarcosine | C(C)(=O)N(C)CC(=O)O | C5H9NO3
catalyst | Lindlar's catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | N-(N'-acetylsarcosyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic ethyl ester | C(C)OC(=O)C1N(CC2=CC=CC=C2C1)C(CN(C)C(C)=O)=O | C17H22N2O4
